US07122546B2
Diethylamine (86 mg, 1.3 equivalents, 1.2 mmol) is added to a solution of 4,6-dichloro-pyridazine-3-carboxylic acid ethyl ester (0.2 g, 0.91 mmol) in ethyl acetate (10 mL) at room temperature. After overnight stirring, the reaction is quenched with water (6 mL). The organic layer is separated and the aqueous layer extracted (2×15 mL) with ethyl acetate. The combined organic layers are dried and solvent removed to give 230 mg of 6-chloro-4-diethylamino-pyridazine-3-carboxylic acid ethyl ester as a yellowish oil.

reactant | Diethylamine | 1.2 mmol, 86 mg, 1.3 equivalents | C(C)NCC | C4H11N
reactant | 4,6-dichloro-pyridazine-3-carboxylic acid ethyl ester | 0.91 mmol, 0.2 g | C(C)OC(=O)C=1N=NC(=CC1Cl)Cl | C7H6Cl2N2O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-4-diethylamino-pyridazine-3-carboxylic acid ethyl ester | 230 mg | C(C)OC(=O)C=1N=NC(=CC1N(CC)CC)Cl | C11H16ClN3O2
